US07371772B2
Formic acid (5.96 ml) was added to acetic anhydride (12.2 ml) at 0° C. and then the mixture was stirred under nitrogen atmosphere at 55° C. for 2 hours. After cooling to 0° C., THF (150 ml) was added, and further a solution of methyl 8-bromo-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxylate (8.5 g) in THF (100 ml) was added dropwise under nitrogen atmosphere. The mixture was returned to room temperature and stirred for 5 hours, after which the solvent was distilled off under reduced pressure. The reaction material was diluted with ethyl acetate, followed by washing with saturated sodium bicarbonate, water and saturated brine. The resultant was dried with magnesium sulfate, after which the solvent was distilled off under reduced pressure, and the resulting residue was washed with hexane to give methyl 8-bromo-1-formyl-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxylate (8.3 g) as colorless crystals.

reactant | Formic acid | 5.96 ml | C(=O)O | CH2O2
reactant | acetic anhydride | 12.2 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | methyl 8-bromo-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxylate | 8.5 g | BrC=1C=CC2=C(C=C(CCCN2)C(=O)OC)C1 | C13H14BrNO2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | methyl 8-bromo-1-formyl-1,2,3,4-tetrahydro-1-benzoazocine-5-carboxylate | 8.3 g | BrC=1C=CC2=C(C=C(CCCN2C=O)C(=O)OC)C1 | C14H14BrNO3
